US08791255B2
The product is prepared according to the procedure described in example 70, using 0.023 ml of 4-fluoroaniline and 36 mg of ethyl 3-methyl-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]butanoate in place of the ethyl [1-ethyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate. After purification by silica column chromatography, eluent: 94/03/03 CH2Cl2/CH3CN/MeOH, 15 mg of N-(4-fluorophenyl)-3-methyl-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]butanamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | 4-fluoroaniline | 0.023 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl 3-methyl-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]butanoate | 36 mg | CC(C(C(=O)OCC)C=1NC(C=C(N1)N1CCOCC1)=O)C | C15H23N3O4
product | N-(4-fluorophenyl)-3-methyl-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]butanamide | 15 mg | FC1=CC=C(C=C1)NC(C(C(C)C)C=1NC(C=C(N1)N1CCOCC1)=O)=O | C19H23FN4O3
